US08957074B2
Following general amide formation method 1, 6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid with 5 equiv LiCl was combined with (1R,5S)-tert-butyl 9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate which gave (1R,5S)-tert-butyl 7-(6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate (170 mg) in 83% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.75 (s, 1H), 8.67 (d, J=8.59 Hz, 1H), 8.42 (s, 1H), 8.31 (br s, 1H), 7.92 (d, J=8.08 Hz, 1H), 6.46 (s, 1H), 4.74-3.40 (m, 7H), 3.22-2.94 (m, 7H), 2.65 (m, 2H), 2.16-1.54 (m, 13H), 1.49 (s, 9H); LCMS m/z 647.1 (M+H)+.

reactant | 6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C22H26N6O3
reactant | LiCl | 5 equiv | [Li+].[Cl-]
reactant | (1R,5S)-tert-butyl 9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate | OC1[C@H]2CN(C[C@@H]1CNC2)C(=O)OC(C)(C)C | C12H22N2O3
product | (1R,5S)-tert-butyl 7-(6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-9-hydroxy-3,7-diazabicyclo[3.3.1]nonane-3-carboxylate | 170 mg, 83% yield | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)N1C[C@H]3CN(C[C@@H](C1)C3O)C(=O)OC(C)(C)C)C=C2)C(N(C)C)=O | C34H46N8O5
